US06291721B1
Preparation of 1-(p-Chlorophenyl)-1-cyclopropyl-2-fluoro-4-(4-fluoro-3--phenoxyphenyl)-1,3-butadiene
A suspension of sodium hydride (6.3 mg, 0.26 mmol) in tetrahydrofuran (1 mL) is treated with a solution of 1-(p-chlorophenyl)-1-cyclopropyl-2-fluoro-4-(4-fluoro-3-phenoxyphenyl)-1-buten-3-ol (106.7 mg, 0.25 mmol) in tetrahydrofuran (1.5 mL), stirred at 50° C. for 10 minutes, cooled to room temperature, treated with a solution of p-toluenesulfonyl chloride (49.6 mg, 0.26 mmol) in tetrahydrofuran (1 mL), stirred at 60° C. for 1 hour, quenched with water, and extracted with ethyl acetate. The combined organic extracts are washed sequentially with water, saturated sodium hydrogen carbonate solution and water, dried over anhydrous sodium sulfate, and concentrated in vacuo to obtain a residue. Flash chromatography of the residue using silica gel and a 1:9 ethyl acetate/hexanes solution gives the title product (62 mg, 61% yield) which is identified by NMR spectral analyses.

reactant | sodium hydride | 0.26 mmol, 6.3 mg | [H-].[Na+]
reactant | 1-(p-chlorophenyl)-1-cyclopropyl-2-fluoro-4-(4-fluoro-3-phenoxyphenyl)-1-buten-3-ol | 0.25 mmol, 106.7 mg | ClC1=CC=C(C=C1)C(=C(C(CC1=CC(=C(C=C1)F)OC1=CC=CC=C1)O)F)C1CC1 | C25H21ClF2O2
reactant | p-toluenesulfonyl chloride | 0.26 mmol, 49.6 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1-(p-Chlorophenyl)-1-cyclopropyl-2-fluoro-4-(4-fluoro-3--phenoxyphenyl)-1,3-butadiene | 62 mg, 61% yield | ClC1=CC=C(C=C1)C(=C(C=CC1=CC(=C(C=C1)F)OC1=CC=CC=C1)F)C1CC1 | C25H19ClF2O
